US06482841B1
A) 4-(3-Bromophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3,5-di(tetrahydrofuran-2-ylmethyl) ester
A solution of 15 g (0.05 mol) of methyl 3-bromobenzylideneacetoacetate and 9.81 g (0.05 mol) of (tetrahydrofuran-2-ylmethyl)-3-aminocrotonate in 55 ml of abs ethanol, was refluxed with stirring, in the absence of light, for 10 hours. The reaction mixture was then cooled to −10° C., yielding a white solid (mp 138-40° C., EtOH) with a yield of 85%.

reactant | methyl 3-bromobenzylideneacetoacetate | 0.05 mol, 15 g | BrC=1C=C(C=CC(CC(=O)OC)=O)C=CC1 | C12H11BrO3
reactant | (tetrahydrofuran-2-ylmethyl)-3-aminocrotonate | 0.05 mol, 9.81 g | O1C(CCC1)COC(\C=C(\C)/N)=O | C9H15NO3
solvent | EtOH | CCO | C2H6O
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-Bromophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3,5-di(tetrahydrofuran-2-ylmethyl) ester | yield of 85% | O1C(CCC1)COC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Br)C(=O)OCC1OCCC1)C)C | C25H30BrNO6
